US06841549B1
(1) Synthesis of N4-(6-methoxy-3-pyridyl)-6-chloro-4,5-pyrimidinediamine hydrocloride
5-Amino-2-methoxypyridine (8.7 g, 70.1 mmol) and conc. hydrochloric acid (1.5 ml) were added successively to a suspension of 5-amino-4,6-dichloropyrimidine (10.0 g, 45.2 mmol, produced by Tokyo Kasei Co., Ltd.) in water (100 ml)/ethanol (15 ml) at room temperature, and the mixture was heated under reflux for 3 hours. After cooling as it was, the resulting solid was collected by filtration, washed with water and air-dried at 50° C., to give the title compound (6.6 g, 72%) as a reddish brown solid.

reactant | 5-Amino-2-methoxypyridine | 70.1 mmol, 8.7 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | 5-amino-4,6-dichloropyrimidine | 45.2 mmol, 10.0 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | N4-(6-methoxy-3-pyridyl)-6-chloro-4,5-pyrimidinediamine hydrocloride | 6.6 g, 72% | Cl.COC1=CC=C(C=N1)NC1=NC=NC(=C1N)Cl | InChI=1S/C10H10ClN5O.ClH/c1-17-7-3-2-6(4-13-7)16-10-8(12)9(11)14-5-15-10;/h2-5H,12H2,1H3,(H,14,15,16);1H
